US06656935B2
A mixture of (S)-2-(2-hydroxymethyl-1-pyrrolidinyl)-4-(3-chloro-4-methoxybenzylamino)-5-(acryloyl)pyrimidine (31 mg), methanol (1 ml) and conc. sulfuric acid (one drop) is heated under reflux for 2 days. After the reaction is complete, the solvent is evaporated under reduced pressure, and the residue is separated by silica gel thin layer chromatography (solvent; chloroform:methanol=30:1) to give (S)-2-(2-hydroxymethyl-1-pyrrolidinyl)-4-(3-chloro-4-methoxybenzylamino)-5-[(2-methoxyethyl)carbonyl]pyrimidine (27 mg) as colorless oil, MS (m/z): 435 (MH+).

reactant | (S)-2-(2-hydroxymethyl-1-pyrrolidinyl)-4-(3-chloro-4-methoxybenzylamino)-5-(acryloyl)pyrimidine | 31 mg | OC[C@H]1N(CCC1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(C=C)=O | C20H23ClN4O3
reactant | methanol | 1 ml | CO | CH4O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | (S)-2-(2-hydroxymethyl-1-pyrrolidinyl)-4-(3-chloro-4-methoxybenzylamino)-5-[(2-methoxyethyl)carbonyl]pyrimidine | 27 mg | OC[C@H]1N(CCC1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)CCOC | C21H27ClN4O4
